US06656938B2
A solution of tert-butyl 2-{2-[2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl(methyl)carbamate (7.20 g, 16.8 mmol) in 200 mL of CH2Cl2 was treated with MCPBA (77%, 4.32 g, 19.3 mmol). After stirring 6 h, the reaction mixture was treated with saturated NaHCO3 solution and the layers were separated. The organic portion was washed with H2O and brine then dried over Na2SO4 and concentrated to give 7.05 g of tert-butyl 2-{2-[2-(2-methoxyethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl(methyl)carbamate as a light brown solid.

reactant | tert-butyl 2-{2-[2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl(methyl)carbamate | 16.8 mmol, 7.20 g | COCCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCN(C(OC(C)(C)C)=O)C | C23H32N4O4
reactant | MCPBA | 19.3 mmol, 4.32 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-{2-[2-(2-methoxyethyl)-5-oxido-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl(methyl)carbamate | 7.05 g | COCCC=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCOCCN(C(OC(C)(C)C)=O)C | C23H32N4O5
